US05034537
To a solution of trimethylsilylacetylene (66.6 mmoles) in tetrahydrofuran (25 ml) cooled to -15° C., under argon, was added dropwise n-butyl lithium (25.6 ml, 2.6M in hexane). The resulting solution was stired for 15 minutes and hexamethylphosphoramide (25 ml) was added. After stirring for 15 minutes the solution was cooled further to -78° C. and 1,10-decyl dibromide (66.6 mmoles) in tetrahydrofuran (150 ml) was added all at once. The reaction mixture was allowed to warm to room temperature and then poured into ice water/ether. The organic layer was washed with water and saturated sodium chloride solution, dried and concentratd. The residual product was purified by flash chromatography (silica column, eluted with hexane) to give 12-trimethylsilyl 11-dodecynyl bromoide. This compound (26.15 mmoles) in tetrahydrofuran (50 ml) was added to magnesium turnings (22.35 mmoles) and to the resulting Grignard reagent was added 2-(2-methoxyphenyl)-4,4-dimethyloxazoline (14.9 mmoles) in tetrahydrofuran (30 ml). The solution was stirred under argon at room temperature for 18 hours, cooled and aqueous ammonium chloride was added dropwise. The reaction mixture was diluted with water and ether, and the organic layer was dried and evaporated to leave the product which was purified by flash chromatography to give 2-(12-trimethylsilyl 11-dodecynylphenyl)-4,4-dimethyl-oxazoline. A solution of this compound (7.36 mmoles) in methyl iodide (25 ml) was refluxed for 15 hours. The volatiles were removed under vacuum to leave the semi-solid 2-(12-trimethylsilyl 11-dodecynylphenyl)-3,4,4-trimethyloxazolinium iodide. To a cooled solution (0° C.) of this compound (6.96 mmoles) in methanol (30 ml) was added in portions sodium borohydride (7.30 mmoles). The reaction mixture was stirred for 30 minutes and was then quenched with 5% sodium hydroxide solution. The product was extracted into ether and the dried extract was concentrated to leave an oil which was dissolved in acetone (50 ml). Hydrochloric acid (10 ml, 3N) was added and the mixture was stirred at room temperature for 18 hours. The acetone was removed in vacuo and the residue partitioned between water and ether. The organic layer was dried and concentrated to give the product which was purified by flash chromatography to give as an oil, 2-(12-trimethylsilyl 11-dodecynyl)benzaldehyde. This compound (2.86 mmoles) was dissolved in methanol (10 ml) under argon, and potassium carbonate (100 mg) was added. The mixture was stirred at room temperature for 18 hours and the solvent removed in vacuo. The residue was dissolved in methylene chloride and the solution washed with 5% sodium bicarbonate solution, water and brine. The dried solution was concentrated to give the desired 2-(11-dodecynyl)benzaldehyde as an oil.

reactant | trimethylsilylacetylene | 66.6 mmoles | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyl lithium | 2.6M, 25.6 ml | C(CCC)[Li]
reactant | magnesium | 22.35 mmoles | [Mg] | Mg
reactant | 2-(2-methoxyphenyl)-4,4-dimethyloxazoline | 14.9 mmoles | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-(12-trimethylsilyl 11-dodecynylphenyl)-4,4-dimethyl-oxazoline | C[Si](C#CCCCCCCCCCCC1=C(C=CC=C1)C=1OCC(N1)(C)C)(C)C | C26H41NOSi
